US04816454
6-(4-(3-Pyridylmethyl)-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone hydrochloride
7.1 g (0.025 mole) of 4-(4-(3-pyridylmethyl)-phenyl)-4-oxo-3-methyl-butyric acid and 1.5 ml (0.03 mole) of hydrazine hydrate are stirred in 30 ml of ethylene glycol monomethyl ether at 100° C. for 1 hour. After addition of ethanolic hydrochloric acid, the product is filtered off with suction and recrystallised from 96% strength ethanol.

reactant | 4-(4-(3-pyridylmethyl)-phenyl)-4-oxo-3-methyl-butyric acid | 0.025 mole, 7.1 g | N1=CC(=CC=C1)CC1=CC=C(C=C1)C(C(CC(=O)O)C)=O | C17H17NO3
reactant | hydrazine hydrate | 0.03 mole, 1.5 ml | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol monomethyl ether | 30 ml | COCCO | C3H8O2
product | 6-(4-(3-Pyridylmethyl)-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone hydrochloride | Cl.N1=CC(=CC=C1)CC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | InChI=1S/C17H17N3O.ClH/c1-12-9-16(21)19-20-17(12)15-6-4-13(5-7-15)10-14-3-2-8-18-11-14;/h2-8,11-12H,9-10H2,1H3,(H,19,21);1H
